US07314886B2
54.E. Synthesis of Ethyl 2-(5-Bromo-7-isopropyl-1H-indol-3-yl)-2-oxoacetate
A 2.0 M solution of oxalyl dichloride in dichloromethane (60 ml, 0.12mol) was added dropwise during 10 min to a solution of 5-Bromo-7-isopropyl-1H-indole (14.5 g, 0.061 mol) in Et2O (220 ml) at room temperature under a nitrogen atmosphere. The mixture was stirred for 4.5 hr. The Et2O was removed by evaporation and absolute EtOH (220 ml) was added. The resulting mixture was stirred at room temperature under a nitrogen atmosphere overnight. The EtOH was evaporated, and EtOAc was added to the residue and washed with sat. NaHCO3 and brine. The organic layers were dried over MgSO4, concentrated, and dried under vaccume to give a crude product (13.8 g, 67%). 1H NMR (300 MHz, CDCl3) δ 8.85 (b, NH), 8.46 (dd, 2H), 7.33 (d, 1H), 4.42 (qrt, 2H), 3.21 (m, 1H), 1.44 (t, 3 H), 1.38 (d, 6H), ESI (+) MS m/e=339 (MH+), ESI (−) MS m/e=337 (MH−).

reactant | oxalyl dichloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 0.12mol, 60 ml | ClCCl | CH2Cl2
reactant | 5-Bromo-7-isopropyl-1H-indole | 0.061 mol, 14.5 g | BrC=1C=C2C=CNC2=C(C1)C(C)C | C11H12BrN
reactant | Et2O | 220 ml | CCOCC | C4H10O
product | Ethyl 2-(5-Bromo-7-isopropyl-1H-indol-3-yl)-2-oxoacetate | 13.8 g, 67% | BrC=1C=C2C(=CNC2=C(C1)C(C)C)C(C(=O)OCC)=O | C15H16BrNO3
